US04440779
Step 3: Preparation of Ethyl 4-bromomethyl-5-ethoxycarbonyl-1-methyl-α-oxo-pyrrole-2-acetate
Ethyl-1,4-dimethyl-5-ethoxycarbonyl-α-oxopyrrole-2-acetate (14.79 g, 55.5 mmol) is dissolved in carbon tetrachloride (300 ml) and placed in a 500 ml round bottom flask. Then N-bromosuccinimide (11.1 g, 62.5 mmol) is added, a reflux condenser is attached and the system is flushed with nitrogen. The mixture is slowly stirred. A 120 V, 150 W G.E. projection lamp is placed against the side of the flask and the lamp and the flask are enclosed in aluminum foil. The reaction mixture is then irradiated for one hour. The lamp is then removed, the solution is cooled and the succinimide is filtered off. The solvent is removed to give a yellow oil which solidifies. This material is then used immediately in the next reaction (vide infra).

reactant | Ethyl-1,4-dimethyl-5-ethoxycarbonyl-α-oxopyrrole-2-acetate | 55.5 mmol, 14.79 g | C(C)OC(C(C=1N(C(=C(C1)C)C(=O)OCC)C)=O)=O | C13H17NO5
reactant | N-bromosuccinimide | 62.5 mmol, 11.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 4-bromomethyl-5-ethoxycarbonyl-1-methyl-α-oxo-pyrrole-2-acetate | BrCC=1C=C(N(C1C(=O)OCC)C)C(C(=O)OCC)=O | C13H16BrNO5
